US04814112
Preparation of trifluoroacetyl palmitate:
Example 2 is repeated to react palmitic acid with trifluoroacetic anhydride.

reactant | palmitic acid | C(CCCCCCCCCCCCCCC)(=O)O | C16H32O2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | trifluoroacetyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OC(C(F)(F)F)=O | C18H31F3O3
